* File: mux_xRC.sp.pex
* Created: Fri Apr 29 23:06:26 2022
* Program "Calibre xRC"
* Version "v2020.3_24.16"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX%NS_BAR 3 7 9 10 21 22
c33 24 0 0.0019363f
c34 22 0 0.00603653f
c35 21 0 0.00496732f
c36 10 0 0.0127733f
c37 9 0 0.0496089f
c38 7 0 0.0201263f
c39 3 0 0.0434294f
r40 22 27 4.6127
r41 22 26 4.9247
r42 21 22 25.0012
r43 19 24 0.0418175
r44 19 21 1.53169
r45 15 24 0.160909
r46 11 24 0.160909
r47 10 15 0.666462
r48 9 11 5.67662
r49 7 27 27.768
r50 3 26 150.852
.ends

.subckt PM_MUX%S 3 7 11 15 19 21 23 24
c38 24 0 0.00497461f
c39 23 0 0.0153003f
c40 19 0 0.00576403f
c41 15 0 0.0279118f
c42 11 0 0.0348701f
c43 7 0 0.0279118f
c44 3 0 0.0510105f
r45 24 31 4.6127
r46 24 30 4.9247
r47 23 24 25.0012
r48 21 23 3.18615
r49 19 28 4.6127
r50 19 27 4.9247
r51 19 21 25.0012
r52 15 31 53.508
r53 11 30 125.112
r54 7 28 53.508
r55 3 27 125.112
.ends

.subckt PM_MUX%A 3 7 11 14 16 17
c30 17 0 0.00633558f
c31 16 0 0.0106025f
c32 11 0 0.00612629f
c33 7 0 0.0260175f
c34 3 0 0.0297211f
r35 17 24 4.6127
r36 16 17 25.0012
r37 14 16 3.05169
r38 11 20 4.9247
r39 10 14 0.192923
r40 10 11 25.0012
r41 7 24 74.568
r42 3 20 104.052
.ends

.subckt PM_MUX%NY_BAR 3 9 11 12 17 19 20 26 28 29 35
c49 35 0 0.0449265f
c50 29 0 0.00614729f
c51 28 0 0.0105665f
c52 26 0 0.00213439f
c53 20 0 0.00672f
c54 19 0 0.017082f
c55 17 0 0.00243261f
c56 12 0 0.00634092f
c57 11 0 0.00899339f
c58 9 0 0.022743f
c59 3 0 0.0226351f
r60 33 35 106.08
r61 29 36 4.6127
r62 29 35 4.9247
r63 28 29 25.0012
r64 26 28 2.81785
r65 22 26 0.212317
r66 20 33 4.6127
r67 20 32 4.9247
r68 19 20 25.0012
r69 17 19 3.95785
r70 13 17 0.212317
r71 12 22 0.841846
r72 11 13 1.08738
r73 9 36 42.12
r74 3 32 28.392
.ends

.subckt PM_MUX%B 3 7 11 13
c19 13 0 0.00492331f
c20 11 0 0.00408562f
c21 7 0 0.0382423f
c22 3 0 0.0261054f
r23 11 17 4.6127
r24 11 16 4.9247
r25 11 13 25.0012
r26 7 17 121.368
r27 3 16 57.252
.ends

.subckt PM_MUX%noxref_6 1 2 3 7 9
c17 9 0 0.0015714f
c18 7 0 0.00428567f
c19 3 0 0.00180636f
c20 2 0 0.00485973f
c21 1 0 0.00491583f
r22 7 8 1.84154
r23 2 9 0.107792
r24 2 7 0.104525
r25 2 9 0.619692
r26 1 3 0.106158
r27 1 8 0.106158
r28 1 3 0.619692
.ends

.subckt PM_MUX%VDD 2 3 4 6 15 18
c24 35 0 0.00252488f
c25 34 0 0.0025718f
c26 15 0 0.0440535f
c27 6 0 0.0197502f
c28 4 0 0.0189185f
c29 3 0 0.00900873f
c30 2 0 0.0130953f
r31 29 35 0.0845374
r32 25 35 0.126671
r33 16 34 0.0845374
r34 16 18 0.562963
r35 15 35 0.0845374
r36 11 34 0.126671
r37 6 34 0.0845374
r38 4 29 0.160444
r39 4 15 0.444741
r40 4 18 0.301185
r41 4 6 0.135111
r42 3 25 0.912
r43 2 11 1.73046
.ends

.subckt PM_MUX%VSS 1 2 5 7 16 19 29
c24 29 0 0.029517f
c25 28 0 0.00253995f
c26 16 0 0.0367865f
c27 7 0 0.0207169f
c28 5 0 0.0164783f
c29 1 0 0.0114185f
r30 23 29 0.166695
r31 17 28 0.0845374
r32 17 19 0.745926
r33 16 29 0.166695
r34 12 28 0.126671
r35 7 28 0.0845374
r36 5 29 0.00772881
r37 5 23 0.0337778
r38 5 16 1.10622
r39 5 19 0.118222
r40 5 7 0.135111
r41 2 5 0.334915
r42 1 12 1.16338
.ends

.subckt PM_MUX%Y 1 2 7
c18 1 0 0.0656832f
r19 2 7 3.32646
r20 1 7 4.21508
.ends

