* File: mux_xRC.sp.pex
* Created: Sat Apr 30 00:08:47 2022
* Program "Calibre xRC"
* Version "v2020.3_24.16"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX%NS_BAR 3 7 8 9 20 21 26
c32 26 0 0.0220227f
c33 23 0 0.0019363f
c34 21 0 0.00602237f
c35 20 0 0.00495948f
c36 9 0 0.0144293f
c37 8 0 0.0479753f
c38 3 0 0.041533f
r39 21 26 4.6127
r40 21 25 4.9247
r41 20 21 25.0012
r42 18 23 0.0418175
r43 18 20 1.53169
r44 14 23 0.160909
r45 10 23 0.160909
r46 9 14 0.871077
r47 8 10 5.472
r48 7 26 28.86
r49 3 25 145.392
.ends

.subckt PM_MUX%S 3 7 11 15 19 21 23 24
c38 24 0 0.00497461f
c39 23 0 0.0151582f
c40 19 0 0.00576403f
c41 15 0 0.0279118f
c42 11 0 0.0348701f
c43 7 0 0.0279118f
c44 3 0 0.0510105f
r45 24 31 4.6127
r46 24 30 4.9247
r47 23 24 25.0012
r48 21 23 3.18615
r49 19 28 4.6127
r50 19 27 4.9247
r51 19 21 25.0012
r52 15 31 49.14
r53 11 30 125.112
r54 7 28 49.14
r55 3 27 125.112
.ends

.subckt PM_MUX%A 3 7 11 14 16 17
c30 17 0 0.00633558f
c31 16 0 0.0106025f
c32 11 0 0.00612629f
c33 7 0 0.0260175f
c34 3 0 0.0297211f
r35 17 24 4.6127
r36 16 17 25.0012
r37 14 16 3.05169
r38 11 20 4.9247
r39 10 14 0.192923
r40 10 11 25.0012
r41 7 24 70.2
r42 3 20 104.052
.ends

.subckt PM_MUX%NY_BAR 3 9 10 11 16 18 19 25 27 28 34 35
c48 35 0 0.022743f
c49 34 0 0.0449265f
c50 28 0 0.00614729f
c51 27 0 0.0105665f
c52 25 0 0.00203674f
c53 19 0 0.00672f
c54 18 0 0.017082f
c55 16 0 0.00243261f
c56 11 0 0.00644288f
c57 10 0 0.00899339f
c58 3 0 0.0226351f
r59 32 34 106.08
r60 28 35 4.6127
r61 28 34 4.9247
r62 27 28 25.0012
r63 25 27 2.81785
r64 21 25 0.212317
r65 19 32 4.6127
r66 19 31 4.9247
r67 18 19 25.0012
r68 16 18 3.95785
r69 12 16 0.212317
r70 11 21 0.841846
r71 10 12 1.08738
r72 9 35 28.548
r73 3 31 28.392
.ends

.subckt PM_MUX%B 3 7 11 13
c19 13 0 0.00492331f
c20 11 0 0.00408562f
c21 7 0 0.0382423f
c22 3 0 0.0261054f
r23 11 17 4.6127
r24 11 16 4.9247
r25 11 13 25.0012
r26 7 17 117
r27 3 16 57.252
.ends

.subckt PM_MUX%noxref_6 1 2 3 7 9
c17 9 0 0.0015714f
c18 7 0 0.00428567f
c19 3 0 0.00180636f
c20 2 0 0.00485973f
c21 1 0 0.00491583f
r22 7 8 1.84154
r23 2 9 0.107792
r24 2 7 0.104525
r25 2 9 0.619692
r26 1 3 0.106158
r27 1 8 0.106158
r28 1 3 0.619692
.ends

.subckt PM_MUX%VDD 2 3 4 6 15 18
c24 35 0 0.00252488f
c25 34 0 0.0025718f
c26 15 0 0.0440599f
c27 6 0 0.0198137f
c28 4 0 0.0189185f
c29 3 0 0.00900873f
c30 2 0 0.0131776f
r31 29 35 0.0845374
r32 25 35 0.126671
r33 16 34 0.0845374
r34 16 18 0.562963
r35 15 35 0.0845374
r36 11 34 0.126671
r37 6 34 0.0845374
r38 4 29 0.160444
r39 4 15 0.444741
r40 4 18 0.301185
r41 4 6 0.135111
r42 3 25 0.912
r43 2 11 1.73046
.ends

.subckt PM_MUX%VSS 1 2 5 7 16 19 29
c24 29 0 0.029517f
c25 28 0 0.00253995f
c26 16 0 0.0367865f
c27 7 0 0.0207165f
c28 5 0 0.0164783f
c29 1 0 0.0114185f
r30 23 29 0.166695
r31 17 28 0.0845374
r32 17 19 0.745926
r33 16 29 0.166695
r34 12 28 0.126671
r35 7 28 0.0845374
r36 5 29 0.00772881
r37 5 23 0.0337778
r38 5 16 1.10622
r39 5 19 0.118222
r40 5 7 0.135111
r41 2 5 0.334915
r42 1 12 1.16338
.ends

.subckt PM_MUX%Y 1 2 7
c18 1 0 0.0656939f
r19 2 7 3.32646
r20 1 7 4.21508
.ends

